US05097023
A solution of 1,4-di-O-acetyl-2,3,6-tri-O-benzyl-D-galactopyranose (4.64 g, 8.67 mmol) in ether (10 mL) was treated with ethereal hydrogen chloride (0.2 g/mL, 25 mL). The mixture was stirred at room temperature during 48 h. The solvents were evaporated under reduced pressure to afford an oil. Flash chromatography on silica gel and elution with a graded mixture of carbon tetrachloride and ethyl acetate afforded 4-O-acetyl-2,3,6-tri-O-benzyl-α-D-galactopyranosyl chloride (3.142 g, 71%) as an oil.

reactant | 1,4-di-O-acetyl-2,3,6-tri-O-benzyl-D-galactopyranose | 8.67 mmol, 4.64 g | C(C)(=O)OC1[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@@H](OC(C)=O)[C@H](O1)COCC1=CC=CC=C1 | C31H34O8
reactant | hydrogen chloride | 25 mL | Cl | ClH
solvent | ether | 10 mL | CCOCC | C4H10O
product | 4-O-acetyl-2,3,6-tri-O-benzyl-α-D-galactopyranosyl chloride | 3.142 g, 71% | C(C)(=O)O[C@@H]1[C@@H]([C@H]([C@H](O[C@@H]1COCC1=CC=CC=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C29H31ClO6
